US06251917B1
a) 2-Amino-N-(butan-1-ol-2-yl)benzamide
10.0 g (61 mmol) of isatoic anhydride and 11 g (123.6 mmol) of 2-amino-1-butanol in 200 ml of tetrahydrofuran were heated under reflux for 8 hours. The tetrahydrofuran was then removed under reduced pressure and the resulting residue was distributed between 2M aqueous sodium hydroxide solution and ethyl acetate. The ethyl acetate phase was dried and concentrated under reduced pressure. 10.5 g (82%) of the product were obtained.

reactant | isatoic anhydride | 61 mmol, 10.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 2-amino-1-butanol | 123.6 mmol, 11 g | NC(CO)CC | C4H11NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Amino-N-(butan-1-ol-2-yl)benzamide | 10.5 g, 82% | NC1=C(C(=O)NC(CO)CC)C=CC=C1 | C11H16N2O2
